US04410520
Alternatively, a solution of 2-amino-4-(2-nitrophenyl)butyric acid hydrochloride (2.5 g) in water (200 ml) was hydrogenated at room temperature and atmospheric pressure, using 10% Pd-C (0.5 g) as catalyst. After uptake of hydrogen ceased, the catalyst was filtered off, and the filtrate evaporated to dryness. The residue was dissolved in water (50 ml) and the pH adjusted to 7 by the addition of 10% sodium hydroxide. The solid was filtered off, washed with water, and dried to give 2-amino-4-(2-aminophenyl)butyric acid. A solution of the 2-amino-4-(2-aminophenyl)butyric acid (1.0 g), hexamethyldisilazane (5.4 g), and chlorotrimethylsilane (0.1 g) in xylene (125 ml) was refluxed for 65 hours. The reaction mixture was cooled, poured into ethanol (200 ml) and evaporated under reduced pressure. Water (100 ml) was added, and the solution extracted with dichloromethane (2×125 ml). The combined dichloromethane solutions were washed with water (50 ml), dried over magnesium sulfate, and evaporated under reduced pressure to give 3-amino-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one as above.

reactant | 2-amino-4-(2-nitrophenyl)butyric acid hydrochloride | 2.5 g | Cl.NC(C(=O)O)CCC1=C(C=CC=C1)[N+](=O)[O-]
reactant | hydrogen | [H][H] | H2
solvent | water | 200 ml | O | H2O
catalyst | Pd-C | 0.5 g | [Pd] | Pd
product | 2-amino-4-(2-aminophenyl)butyric acid | NC(C(=O)O)CCC1=C(C=CC=C1)N | C10H14N2O2
